### PR TITLE
feat(CategoryTheory/Limits): certain multicoequalizers are pushouts

### PR DESCRIPTION
**Pull request by joelriou**
In this file, we show that a multicoequalizer for for `I : MultispanIndex (.ofLinearOrder ι) C` is also a pushout when `ι` has exactly two elements.

---

- [x] depends on: #22203
- [x] depends on: #20988 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by erdOne** [comment]
This looks oddly specific to me. What are the applications?
These kinds of result should be true for all `I : MultispanShape` with `Unique I.L`. And it should also be relatively easy to get `Unique (MultispanShape.ofLinearOrder ι).L` from the assumptions.

**Comment by joelriou** [comment]
> This looks oddly specific to me. What are the applications? These kinds of result should be true for all `I : MultispanShape` with `Unique I.L`. And it should also be relatively easy to get `Unique (MultispanShape.ofLinearOrder ι).L` from the assumptions.

This is to deduce pushout diagrams from https://github.com/leanprover-community/mathlib4/blob/da09b153fc93793489ac4ca7924727298b6f1599/Mathlib/CategoryTheory/Limits/Types/Multicoequalizer.lean#L75
I can try to makes this slightly more general, with `I.R` with two elements and `I.L` with only one.

**Comment by joelriou** [comment]
> I can try to make this slightly more general, with `I.R` with two elements and `I.L` with only one.

Ah, but I would also have to specify certain equalities for the `fst/snd` fields of `I`. I do not think the more general lemma would look better.

**Comment by erdOne** [comment]
I meant something like
```lean
/-
Copyright (c) 2025 Joël Riou. All rights reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Joël Riou
-/
import Mathlib.CategoryTheory.Limits.Shapes.Multiequalizer
import Mathlib.CategoryTheory.Limits.Shapes.Pullback.CommSq

/-!
# Multicoequalizers that are pushouts

In this file, we show that a multicoequalizer for
for `I : MultispanIndex (.ofLinearOrder ι) C` is also
a pushout when `ι` has exactly two elements.

-/

namespace CategoryTheory.Limits.Multicofork.IsColimit

variable {C : Type*} [Category C] {J : MultispanShape} [Unique J.L]
  {I : MultispanIndex J C} (c : Multicofork I)
  (h : {J.fst default, J.snd default} = Set.univ) (h' : J.fst default ≠ J.snd default)

namespace isPushout

variable (s : PushoutCocone (I.fst default) (I.snd default))

open Classical in
/-- Given a type `ι` containing only two elements `i < j`,
`I : MultispanIndex (.ofLinearOrder ι) C`, this is the multicofork
for `I` attached to a pushout cocone for the morphism
`I.fst ⟨⟨i, j⟩, _⟩` and `I.snd ⟨⟨i, j⟩, _⟩`. -/
noncomputable def pushoutCocone : Multicofork I :=
  Multicofork.ofπ _ s.pt (fun k ↦
    if hk : k = J.fst default then
      eqToHom (by simp [hk]) ≫ s.inl
    else
      eqToHom (by
        obtain rfl : k = J.snd default := by
          have := h.symm.le (Set.mem_univ k)
          simp only [Set.mem_insert_iff, Set.mem_singleton_iff] at this
          tauto
        rfl) ≫ s.inr) (by
    rw [Unique.forall_iff]
    simpa [h'.symm] using s.condition)

@[simp]
lemma pushoutCocone_π_eq_inl : (pushoutCocone h h' s).π (J.fst default) = s.inl := by
  dsimp only [pushoutCocone, ofπ, π]
  rw [dif_pos rfl, eqToHom_refl, Category.id_comp]

@[simp]
lemma pushoutCocone_π_eq_inr : (pushoutCocone h h' s).π (J.snd default) = s.inr := by
  dsimp only [pushoutCocone, ofπ, π]
  rw [dif_neg h'.symm, eqToHom_refl, Category.id_comp]

end isPushout

include h h' in
/-- A multicoequalizer for `I : MultispanIndex (.ofLinearOrder ι) C` is also
a pushout when `ι` has exactly two elements. -/
lemma isPushout (hc : IsColimit c) :
    IsPushout (I.fst default) (I.snd default) (c.π (J.fst default)) (c.π (J.snd default)) where
  w := c.condition _
  isColimit' := ⟨PushoutCocone.IsColimit.mk _
    (fun s ↦ hc.desc (isPushout.pushoutCocone h h' s))
    (fun s ↦ by simpa using hc.fac (isPushout.pushoutCocone h h' s) (.right (J.fst default)))
    (fun s ↦ by simpa using hc.fac (isPushout.pushoutCocone h h' s) (.right (J.snd default)))
    (fun s m h₁ h₂ ↦ by
      apply Multicofork.IsColimit.hom_ext hc
      intro k
      have := h.symm.le (Set.mem_univ k)
      simp only [Set.mem_insert_iff, Set.mem_singleton_iff] at this
      obtain rfl | rfl := this
      · simpa [h₁] using (hc.fac (isPushout.pushoutCocone h h' s) (.right (J.fst default))).symm
      · simpa [h₂] using (hc.fac (isPushout.pushoutCocone h h' s) (.right (J.snd default))).symm)⟩

end CategoryTheory.Limits.Multicofork.IsColimit
```

**Comment by joelriou** [comment]
Thanks @erdOne for the generalization!

File: Mathlib/CategoryTheory/Limits/Shapes/MultiequalizerPullback.lean [hunk 1]
```diff
@@ -0,0 +1,78 @@
...
+  {I : MultispanIndex J C} (c : Multicofork I)
+  (h : {J.fst default, J.snd default} = Set.univ) (h' : J.fst default ≠ J.snd default)
+
+namespace isPushout
+
+variable (s : PushoutCocone (I.fst default) (I.snd default))
+
+open Classical in
+/-- Given a multispan shape `J` which is essentially `.ofLinearOrder ι`
+(where `ι` has exactly two elements), this is the multicofork
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/MultiequalizerPullback.lean:30]:
```suggestion
where `ι` has exactly two elements, this is the multicofork
```

File: Mathlib/CategoryTheory/Limits/Shapes/MultiequalizerPullback.lean [hunk 2]
```diff
@@ -0,0 +1,78 @@
...
+      eqToHom (by simp [hk]) ≫ s.inl
+    else
+      eqToHom (by
+        obtain rfl : k = J.snd default := by
+          have := h.symm.le (Set.mem_univ k)
+          simp only [Set.mem_insert_iff, Set.mem_singleton_iff] at this
+          tauto
+        rfl) ≫ s.inr) (by
+    rw [Unique.forall_iff]
+    simpa [h'.symm] using s.condition)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/MultiequalizerPullback.lean]:
```suggestion
  Multicofork.ofπ _ s.pt
    (fun k ↦
      if hk : k = J.fst default then
        eqToHom (by simp [hk]) ≫ s.inl
      else
        eqToHom (by
          obtain rfl : k = J.snd default := by
            have := h.symm.le (Set.mem_univ k)
            simp only [Set.mem_insert_iff, Set.mem_singleton_iff] at this
            tauto
          rfl) ≫ s.inr)
    (by
      rw [Unique.forall_iff]
      simpa [h'.symm] using s.condition)
```

Purely stylistic, but I find the indentation levels and proof organization clearer this way.

File: Mathlib/CategoryTheory/Limits/Shapes/MultiequalizerPullback.lean [hunk 3]
```diff
@@ -0,0 +1,78 @@
...
+
+-/
+
+namespace CategoryTheory.Limits.Multicofork.IsColimit
+
+variable {C : Type*} [Category C] {J : MultispanShape} [Unique J.L]
+  {I : MultispanIndex J C} (c : Multicofork I)
+  (h : {J.fst default, J.snd default} = Set.univ) (h' : J.fst default ≠ J.snd default)
+
+namespace isPushout
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/MultiequalizerPullback.lean:24]: Shouldn’t `multicofork` be in the `CategoryTheory.Limits.PushoutCocone` namespace so that we can use dot notation?

**Review by robin-carlier — CHANGES_REQUESTED** [review]
I think the PR is short enough already so that you can include the dual result for multiequalizers and pullback in this one as well. It’s probably best to do both at the same time, otherwise we might forget and have some undualized API.

File: Mathlib/CategoryTheory/Limits/Shapes/MultiequalizerPullback.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Shapes/MultiequalizerPullback.lean:30]: I prefer with parentheses.

File: Mathlib/CategoryTheory/Limits/Shapes/MultiequalizerPullback.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Shapes/MultiequalizerPullback.lean:24]: `isPushout.multicofork` et al. are auxiliary definitions for `isPushout`. As this definition only applies to very specific pushout cocones, I do not feel it would be very useful outside of this file, and the need for dot notation seems very unlikely.

Comment (robin-carlier) [reply Mathlib/CategoryTheory/Limits/Shapes/MultiequalizerPullback.lean:24]: Your, call, but even as an "implementation" definition, I feel that `CategoryTheory.Limits.Multicofork.IsColimit.isPushout.multicofork` is one hell of a name.

File: Mathlib/CategoryTheory/Limits/Shapes/MultiequalizerPullback.lean (hunk 1 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/Limits/Shapes/MultiequalizerPullback.lean:30]: I was pointing this to align more with the docstring of `isPushout` below. But this is nitpicking at this point.

**Review by robin-carlier — APPROVED** [review]
LGTM but there is still the fact that the results are not dualized. At the time of first review I mistakenly thought that this would be straightforward and rather short, but since the results in #22203 were also not dualized, I guess this is better left for an other day. The rest was essentially nitpicks that @joelriou addressed.

@erdOne care to re-review and confirm that everything is good and put it on the maintainer queue?

**Comment by joelriou** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26028
